US09328134B2
n-Butyllithium (2.5 M in hexanes, 0.64 mL, 1.59 mmol, commercially available from Sigma Aldrich) was added to a stirred solution of diethyl methylphosphonate (0.23 mL, 1.59 mmol, commercially available from Sigma Aldrich) in THF (1.5 mL) at −78° C. under an argon atmosphere. The mixture was stirred for 15 min before a solution of (3 S,4R,5R,6S)-3,4,5-tris(benzyloxy)-6-methyltetrahydro-2H-pyran-2-one (0.275 g, 0.636 mmol) in THF (1 mL) at −78° C. was added. The reaction mixture was removed from the cooling bath, and the mixture was allowed to warm to room temperature while stirring for 1 h. The reaction mixture was next concentrated in vacuo. The resulting oil was purified by silica gel chromatography (0 to 75% EtOAc/hexanes gradient) to give diethyl (((2S,3S,4R,5R,6S)-3,4,5-tris(benzyloxy)-2-hydroxy-6-methyltetrahydro-2H-pyran-2-yl)methyl)phosphonate as a colorless oil (0.251 g, 67.5% yield). 1H NMR (400 MHz, CDCl3): δ ppm 1.09 (d, J=6.65 Hz, 3 H) 1.26 (q, J=6.85 Hz, 6 H) 1.76 (dd, J=18.49, 15.16 Hz, 1 H) 2.33 (dd, J=17.41, 15.26 Hz, 1 H) 3.68 (br. d, J=1.60 Hz, 1 H) 3.72 (d, J=9.98 Hz, 1 H) 3.92-4.02 (m, 2 H) 4.06-4.17 (m, 4 H) 4.69 (dd, J=11.54, 4.11 Hz, 2H) 4.77 (dd, J=16.43, 11.74 Hz, 2 H) 4.99 (dd, J=11.54, 9.39 Hz, 2 H) 7.26-7.41 (m, 15 H).

reactant | n-Butyllithium | C(CCC)[Li]
reactant | diethyl methylphosphonate | CP(OCC)(OCC)=O | C5H13O3P
reactant | (3 S,4R,5R,6S)-3,4,5-tris(benzyloxy)-6-methyltetrahydro-2H-pyran-2-one | 0.636 mmol, 0.275 g | C(C1=CC=CC=C1)O[C@@H]1C(O[C@H]([C@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C)=O | C27H28O5
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | diethyl (((2S,3S,4R,5R,6S)-3,4,5-tris(benzyloxy)-2-hydroxy-6-methyltetrahydro-2H-pyran-2-yl)methyl)phosphonate | 0.251 g, 67.5% yield | C(C1=CC=CC=C1)O[C@@H]1[C@@](O[C@H]([C@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C)(O)CP(OCC)(OCC)=O | C32H41O8P
